US05728651
Preparation of 5,6,7,8-tetrahydro-2-(5-acetyloxy-2,4-dichlorophenyl)-8-bromo1,2,4-triazolo[4,3-α]pyridin-3(2H)-one
To a solution of 3.55 g (10.4 mmol) of 5,6,7,8-tetrahydro-2-(5-acetyloxy-2,4-dichlorophenyl)-1,2,4-triazolo[4,3-α]pyridin-3(2H)-one in 100 mL of carbon tetrachloride was added 2.03 g (11.4 mmol) of N-bromosuccinimide at room temperature. The mixture was warmed under reflux by irradiating with a sun lamp for 3h. The mixture was cooled to room temperature and concentrated under reduced pressure. The crude product was purified by flash chromatography over silica gel, eluting with a 1:1 v:v mixture of ethyl acetate and n-hexane to give 4.10 g of the title product of Step 1 as a white solid, m.p.: 75°-83° C.; 1H NMR (CDCl3, 300 MHz) δ 7.6 (s,1H), 7.35 (s,1H), 5.25 (m,1H), 4.0 (m,1H), 3.6 (m,1H), 2.75 (s,3H), 2.5-1.9 (m,4H).

reactant | 5,6,7,8-tetrahydro-2-(5-acetyloxy-2,4-dichlorophenyl)-1,2,4-triazolo[4,3-α]pyridin-3(2H)-one | 10.4 mmol, 3.55 g | C(C)(=O)OC=1C(=CC(=C(C1)N1N=C2N(CCCC2)C1=O)Cl)Cl | C14H13Cl2N3O3
reactant | N-bromosuccinimide | 11.4 mmol, 2.03 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5,6,7,8-tetrahydro-2-(5-acetyloxy-2,4-dichlorophenyl)-8-bromo1,2,4-triazolo[4,3-α]pyridin-3(2H)-one | 4.10 g | C(C)(=O)OC=1C(=CC(=C(C1)N1N=C2N(CCCC2Br)C1=O)Cl)Cl | C14H12BrCl2N3O3
